US04478842
Dimethylformamide (1640 ml) is charged into a 20 gallon glass kettle along with 430g of potassium t-butoxide. This solution is stirred under nitrogen and cooled to -8°. A solution of 682 g of 3-methyl-2-(3-pyridyl)indole in 3280 ml of dimethylformamide is added over 0.75 hour while the temperature is maintained below 0°. After 2 hours of stirring of -10°, 1640 ml of a solution of 780 g of methyl 8-bromooctanoate in dimethylformamide is added over 1 hour. Reaction temperature is maintained below 0°. After 2 hours stirring, the reaction mixture is allowed to warm to room temperature overnight. The rust-colored mixture is then cooled to about 5° and treated with 19.7 L of ice water. The temperature rises to 25°. After 0.5 hour stirring, the mixture is extracted with 2×8 L of ether. The extracts are dried (MgSO4) and concentrated in vacuo to give 1-(7-methoxycarbonylheptyl)-3-methyl-2-(3-pyridyl)indole as an oil; 1293 g of this oil is treated with 6.53 L of 1N NaOH and warmed over steam to 90° for 2.5 hours. After cooling to room temperature, the solution is washed with 3×3 L of ether. The aqueous layer is cooled to 10° and acidified to pH 3.5 with 3.4 L of 2N HCl. The heavy suspension which results is extracted with 4×4 L of methylene chloride. The combined extracts are washed once with 4 L of water and dried (MgSO4). After filtration and evaporation of solvent in vacuo at 60°, the residue is triturated with ether (2.0 L) and dried to give 1-(7-carboxyheptyl)-3-methyl-2-(3-pyridyl)indole, m.p. 113°-115°. Recrystallization from ethanol raises melting point to 114°-116°.

reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | 3-methyl-2-(3-pyridyl)indole | 682 g | CC1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C14H12N2
reactant | methyl 8-bromooctanoate | 780 g | BrCCCCCCCC(=O)OC | C9H17BrO2
solvent | dimethylformamide | 3280 ml | CN(C=O)C | C3H7NO
solvent | Dimethylformamide | 1640 ml | CN(C=O)C | C3H7NO
product | 1-(7-methoxycarbonylheptyl)-3-methyl-2-(3-pyridyl)indole | COC(=O)CCCCCCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C23H28N2O2
